US07718652B2
In an analogous manner to Example 1, step 8, 1-(3-chloro-4-fluorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (73 mg) was reacted with methylamine and then treated with HCl to provide 3-[1-(3-chloro-4-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride (61 mg):

reactant | 1-(3-chloro-4-fluorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 73 mg | ClC=1C=C(C=CC1F)N1S(N(CC2=C1C=CC=C2)CCCCl)(=O)=O | C16H15Cl2FN2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(3-chloro-4-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride | 61 mg | Cl.ClC=1C=C(C=CC1F)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | InChI=1S/C17H19ClFN3O2S.ClH/c1-20-9-4-10-21-12-13-5-2-3-6-17(13)22(25(21,23)24)14-7-8-16(19)15(18)11-14;/h2-3,5-8,11,20H,4,9-10,12H2,1H3;1H
